US05212320
A mixture of 3-(3-nitrobenzoyl)indole (2.09 g), ethyl 4-bromobutyrate (1.614 g) and potassium carbonate (3.118 g) in N,N-dimethylformamide (20 ml) was stirred at 25° C. overnight. The reaction mixture was poured into a mixture of ethyl acetate and 1N hydrochloric acid. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. After evaporation of solvent, the crystalline residue was recrystallized from a mixture of ethyl acetate and hexane to give ethyl 4-[3-(3-nitrobenzoyl)indol-1-yl]butyrate (2.71 g) as colorless crystals.

reactant | 3-(3-nitrobenzoyl)indole | 2.09 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CNC3=CC=CC=C23)C=CC1 | C15H10N2O3
reactant | ethyl 4-bromobutyrate | 1.614 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 3.118 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-[3-(3-nitrobenzoyl)indol-1-yl]butyrate | 2.71 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=CC1 | C21H20N2O5
